US07544688B2
B. 4-(2,2-Dimethyl-propylamino)-5-(3-piperazin-1-yl-prop-1-ynyl)-pyrimidine-2-carbonitrile
To a solution of 4-{3-[2-cyano-4-(2,2-dimethyl-propylamino)-pyrimidin-5-yl]-prop-2-ynyl}-piperazine-1-carboxylic acid .tert.-butyl ester (2.9 mmol) in dioxane (5 ml), 4N hydrogenchloride in dioxane(15 ml) is added at 0° C. The reaction mixture is stirred at room temperature for 1 day and then evaporated under reduced pressure. To a solution of residual solid, CH2Cl2 is added at room temperature, pH is adjusted to 9.0 by triethylamine. The mixture is quenched with ammonium chloride and extracted with CH2Cl2. The combined extracts are washed with brine, dried over sodium sulfate and concentrated under vacuum. The residue is purified by silica gel column chromatography to afford title compound in 72% yield. Rf=0.11 (MeOH:CH2C2=1:9)

reactant | 4-{3-[2-cyano-4-(2,2-dimethyl-propylamino)-pyrimidin-5-yl]-prop-2-ynyl}-piperazine-1-carboxylic acid | C(#N)C1=NC=C(C(=N1)NCC(C)(C)C)C#CCN1CCN(CC1)C(=O)O | C18H24N6O2
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | hydrogenchloride | 4N | Cl | ClH
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | 4-(2,2-Dimethyl-propylamino)-5-(3-piperazin-1-yl-prop-1-ynyl)-pyrimidine-2-carbonitrile | 72% yield | CC(CNC1=NC(=NC=C1C#CCN1CCNCC1)C#N)(C)C | C17H24N6
